US06613786B2
2-Amino-4-chloro-6-bromoanisole was prepared by the same procedure described for Step 3 of Preparation 2a except using 2-nitro-4-chloro-6-bromoanisole (16.2 g) and tin (14.5 g). Workup provided 2-amino-4-chloro-6-bromoanisole (14.0 g, 97%). 1H NMR (300 MHz, CDCl3) δ6.88 (d, J=2.4 Hz, 1H), 6.65 (d, J=2.4 Hz, 1H), 3.80 (s, 3H). 13C NMR (75 MHz, CDCl3) δ142.9, 141.9, 130.2, 121.4, 117.1, 114.6, 59.6.

reactant | 2-nitro-4-chloro-6-bromoanisole | 16.2 g | [N+](=O)([O-])C1=C(C(=CC(=C1)Cl)Br)OC | C7H5BrClNO3
reactant | tin | 14.5 g | [Sn] | Sn
product | 2-amino-4-chloro-6-bromoanisole | 14.0 g, 97% | NC1=C(C(=CC(=C1)Cl)Br)OC | C7H7BrClNO
